US09227919B2
Step-4: (R)-Ethyl 3-(3′,4′-dihydro-2′H-spiro[[1,3]dioxolane-2,1′-naphthalen]-3′-yl)acrylate
To the stirred solution of (R)-3′,4′-dihydro-2′H-spiro[[1,3]dioxolane-2,1′-naphthalene]-3′-carbaldehyde (4.1 g, 18.79 mmol) in DCM (10 mL), ethyl 2-(triphenyl phosphoranylidene)acetate (7.85 g, 22.54 mmol) was added and reaction mixture was stirred at RT for 16 h. After completion of reaction, reaction mixture was concentrated under vacuum to get 5.5 g of crude compound. This crude compound was further purified by flash chromatography (Biotage) using eluent hexane/ethyl acetate 80:20 to get the title compound (2.5 g, 46.2% yield); m/z 288.34

reactant | (R)-3′,4′-dihydro-2′H-spiro[[1,3]dioxolane-2,1′-naphthalene]-3′-carbaldehyde | 18.79 mmol, 4.1 g | C12(C[C@@H](CC3=CC=CC=C13)C=O)OCCO2 | C13H14O3
reactant | ethyl 2-(triphenyl phosphoranylidene)acetate | 22.54 mmol, 7.85 g | C1(=CC=CC=C1)P(=CC(=O)OCC)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (R)-Ethyl 3-(3′,4′-dihydro-2′H-spiro[[1,3]dioxolane-2,1′-naphthalen]-3′-yl)acrylate | 2.5 g, 46.2% yield | C12(C[C@@H](CC3=CC=CC=C13)C=CC(=O)OCC)OCCO2 | C17H20O4
